US07601714B2
To a solution of {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (100 mg, 0.26 mmol) in a mixture of CH2Cl2 (2 mL) and DMF (1 mL) were added 2-iodobenzylamine (192 mg, 0.82 mmol) and DIPEA (135 μL, 1.04 mmoL). The reaction mixture was stirred at room temperature for 16 h and concentrated in vacuo. The resulting residue was diluted with EtOAc and washed with water (×3) and then with brine. The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by silica gel preparative TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 97 mg (64%) of (4-{[2-(2-iodo-benzylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester.

reactant | {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.26 mmol, 100 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C16H24ClN5O4
reactant | 2-iodobenzylamine | 0.82 mmol, 192 mg | IC1=C(CN)C=CC=C1 | C7H8IN
reactant | DIPEA | 135 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (4-{[2-(2-iodo-benzylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 97 mg, 64% | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)I)=O | C23H31IN6O4
